US04436662
A mixture of 3.3 g (8.9 mmol) of 4-[2-(2-chlorobenzoyl)-4-chlorophenyl]-5-ethyl-1H-pyrrole-3-carbonitrile, 0.5 teaspoon of Raney nickel, and 100 ml of acetic acid was hydrogenated on a Parr apparatus at 50 psi for 16 hours. The Raney nickel was removed by filtration through a pad of Celite, and the filtrate was concentrated at reduced pressure to a dark residue. The residue was partitioned between ice water and ether and basified with concentrated ammonium hydroxide solution. The ether was removed at reduced pressure, and the aqueous residue was stirred for 1 hour. The resulting precipitate was collected by filtration and dissolved in tetrahydrofuran. The tetrahydrofuran solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to a residue which crystallized from ether to give 8-chloro-6-(2-chlorophenyl)-1-ethyl-2H,4H-pyrrolo[3,4-d][2]benzazepine as yellow prisms, mp 251°-253° C. Recrystallization from a mixture of ether and methylene chloride gave off-white prisms, mp 254° -255° C.

reactant | 4-[2-(2-chlorobenzoyl)-4-chlorophenyl]-5-ethyl-1H-pyrrole-3-carbonitrile | 8.9 mmol, 3.3 g | ClC1=C(C(=O)C2=C(C=CC(=C2)Cl)C=2C(=CNC2CC)C#N)C=CC=C1 | C20H14Cl2N2O
catalyst | Raney nickel | 0.5 teaspoon | [Ni] | Ni
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 8-chloro-6-(2-chlorophenyl)-1-ethyl-2H,4H-pyrrolo[3,4-d][2]benzazepine | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=CNC3CC)C=C1 | C20H16Cl2N2
